US04351977
Bicyclo[10.3.0]pentadeca-1,12-diene(intermediate compound not isolated)
0.144 g (6 mmole) of NaH and 10 ml of DMSO were first heated at 80° for 30 min. Once the hydrogen evolution was terminated, 0.728 g (2 mmole) of 2-(3-phenylsulfonyl-prop-1-yl)-cyclododecanone were added to the above mixture and the resulting reaction mixture further heated at 100° for 4 hours. After the treatments of extraction and distillation mentioned hereinabove, there were isolated 0.326 g (80% yield) of the desired compound.

reactant | NaH | 6 mmole, 0.144 g | [H-].[Na+]
reactant | 2-(3-phenylsulfonyl-prop-1-yl)-cyclododecanone | 2 mmole, 0.728 g | C1(=CC=CC=C1)S(=O)(=O)CCCC1C(CCCCCCCCCC1)=O | C21H32O3S
solvent | DMSO | 10 ml | CS(=O)C | C2H6OS
product | Bicyclo[10.3.0]pentadeca-1,12-diene | 0.326 g, 80% yield | C12=CCCCCCCCCCC2=CCC1 | C15H24
